US08980888B2
<Step 8> Synthesis of 4-(4-(difluoromethyl)thiazol-2-yl)-N-(2-((R)-2-(methoxymethyl)pyrrolidin-1-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide
The N-(2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxamide (20 mg) obtained in (Example 5.16) <Step 7> and (R)-2-(methoxymethyl)pyrrolidine (0.5 ml) were heated at 150° C. for 4 days. Thereafter, ethyl acetate (50 ml) and a saturated saline (20 ml) were added to the reaction solution, and an organic layer was then extracted. The obtained organic layer was dried over sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by preparative thin-layer chromatography (silica gel:eluent; ethyl acetate), so as to obtain the title compound (2.1 mg) in a yellow amorphous form.

reactant | N-(2-bromo-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-4-(4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxamide | 20 mg | BrC1=NN2C(CC(CC2)NC(=O)C2=C(C=NN2C)C=2SC=C(N2)C(F)F)=N1 | C15H14BrF2N7OS
reactant | (R)-2-(methoxymethyl)pyrrolidine | 0.5 ml | COC[C@@H]1NCCC1 | C6H13NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-(difluoromethyl)thiazol-2-yl)-N-(2-((R)-2-(methoxymethyl)pyrrolidin-1-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide | 2.1 mg | FC(C=1N=C(SC1)C=1C=NN(C1C(=O)NC1CC=2N(CC1)N=C(N2)N2[C@H](CCC2)COC)C)F | C21H26F2N8O2S
